US08058311B2
To a solution of 3-(benzylthio)phenylcyanamide (0.80 g, 3.33 mmol) dissolved in acetonitrile (8 mL) was added diisopropylethylamine (0.65 g, 5.0 mmol), followed by addition of methyl iodide (0.94 g, 6.66 mmol). The reaction mixture was refluxed at 80-85° C. for 3 hours. After removal of solvents the residue was taken by dichloromethane (40 ml) and the organic solution was washed by water (40 ml). After dried over MgSO4 and filtered, dichloromethane solution was then concentrated in vacuo to afford yellow oil as crude product. Purification by column chromatography (SiO2, Hexane/CH2Cl2, 50% to 100%) to afford 3-(benzylthio)phenyl-N-methylcyanamide as a pale yellow oil (0.67, 80% yield): CH2Cl2 Rf=0.45; 1H-NMR (CDCl3) δ (ppm) 7.3-6.8 (m, 9H, Ar—H), 4.06 (s, S—CH2, 2H), 3.57 (s, 3H, N—CH3).

reactant | 3-(benzylthio)phenylcyanamide | 3.33 mmol, 0.80 g | C(C1=CC=CC=C1)SC=1C=C(C=CC1)NC#N | C14H12N2S
reactant | diisopropylethylamine | 5.0 mmol, 0.65 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methyl iodide | 6.66 mmol, 0.94 g | CI | CH3I
solvent | acetonitrile | 8 mL | C(C)#N | C2H3N
product | 3-(benzylthio)phenyl-N-methylcyanamide | 80% yield | C(C1=CC=CC=C1)SC=1C=C(C=CC1)N(C#N)C | C15H14N2S
